US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)-propanoic acid was prepared according to Example 2A from 3-amino-3-(3-ethoxy-4-methoxyphenyl)propanoic acid (3.00 g, 12.5 mmol), 2,3-napthalene dicarboxylic anhydride (2.59 g, 12.5 mmol) in acetic acid (20 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)propanoic acid as an off-white solid (4.9 g, 93% yield): mp, 193.0-194.0° C.; 1H NMR (DMSO-d6) δ1.32 (t, J=6.9 Hz, 3H, CH3), 3.34 (dd, J=7.1, 16 Hz, 1H, CHH), 3.57 (dd, J=8.9, 16 Hz, 1H, CHH), 3.74 (s, 3H, CH3), 4.02 (q, J=6.9 Hz, 2H, CH2), 5.71 (dd, J=7, 8 Hz, 1H, NCH), 6.91-6.98 (m, 2H, Ar), 7.09 (br s, 1H, Ar), 7.74-7.78 (m, 2H, Ar), 8.23-8.27 (m, 2H, Ar), 8.50 (br s, 2H, Ar), 12.5 (br s, 1H, OH); 13C NMR (DMSO-d6) δ14.62, 36.03, 50.28, 55.43, 63.71, 111.79, 112.28, 119.45, 124.55, 126.87, 129.27, 130.24, 131.24, 135.03, 147.74, 148.57, 167.29, 171.75; Anal Calcd for C24H21NO6: C, 68.73; Hy 5.05; N, 3.34. Found: C, 68.59; H, 5.25; N, 3.17.

reactant | 3-amino-3-(3-ethoxy-4-methoxyphenyl)propanoic acid | 12.5 mmol, 3.00 g | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C12H17NO4
reactant | 2,3-napthalene dicarboxylic anhydride | 12.5 mmol, 2.59 g | C1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C12H6O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 3-(3-ethoxy-4-methoxyphenyl)-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)propanoic acid | 4.9 g, 93% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O | C24H21NO6
